US05726325
To a solution of methyl 3-bromomethyl-2-thiophenecarboxylate (7.31 g, 31.1 mmol) in toluene (90 ml) was added triphenylphosphine (7.92 g, 30.2 mmol) under ice cooling. The temperature of the mixture was raised to room temperature, followed by stirring for 2 days. The precipitated crystals were collected by filtration and dried to give 2-methoxycarbonylthiophen-3-ylmethyltriphenylphosphonium bromide (10.57 g, 70.4%). This product was subjected to the reaction of Reference Example 13 without purification.

reactant | methyl 3-bromomethyl-2-thiophenecarboxylate | 31.1 mmol, 7.31 g | BrCC1=C(SC=C1)C(=O)OC | C7H7BrO2S
reactant | triphenylphosphine | 30.2 mmol, 7.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methoxycarbonylthiophen-3-ylmethyltriphenylphosphonium bromide | 10.57 g, 70.4% | [Br-].COC(=O)C=1SC=CC1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H22O2PS.BrH/c1-27-25(26)24-20(17-18-29-24)19-28(21-11-5-2-6-12-21,22-13-7-3-8-14-22)23-15-9-4-10-16-23;/h2-18H,19H2,1H3;1H/q+1;/p-1
